US06030969
25b. 4,6-diamino-5-(1,2-bis(4-isopropylphenyl)ethenyl)pyrimidine
1,2-Bis(4-(2-propyl)phenyl)acetylene (11.40 g, 43 mmol) was dissolved in 50 mL THF, catecholborane (1 M, 50 mL) in THF was added, and the mixture was heated at reflux for 30 hours. The mixture was cooled, then 4,6-diamino-5-iodo-pyrimidine, 30 mL saturated aqueous sodium bicarbonate, 20 mL 3N aqueous sodium hydroxide, and 1.00 g (0.87 mmol) tetrakis(triphenylphosphine)palladium(0) were added. The mixture was heated to reflux for 18 hours, cooled, diluted with water, then extracted with ethyl acetate. The organic layers were combined, dried with magnesium sulfate, and the solvent evaporated. The residue was chromatographed on silica gel with 2.5% to 5% (19:1 ethanol:ammonium hydroxide) in ethyl acetate to give the desired product (4.53 g, 28% yield).

reactant | 1,2-Bis(4-(2-propyl)phenyl)acetylene | 43 mmol, 11.40 g | CC(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)C | C20H22
reactant | catecholborane | 1 M, 50 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | 4,6-diamino-5-iodo-pyrimidine | NC1=NC=NC(=C1I)N | C4H5IN4
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 3N, 20 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.87 mmol, 1.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,6-diamino-5-(1,2-bis(4-isopropylphenyl)ethenyl)pyrimidine | 4.53 g, 28% yield | NC1=NC=NC(=C1C(=CC1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)C(C)C)N | C24H28N4
